US06331637B1
2-(3,4,5-trimethoxybenzyl)-benzo[b]thiophene was prepared in the same manner as described in Example 47B. Reaction of a-(2-benzo[b]-thienyl)-3,4,5-trimethoxybenzyl alcohol (4.5 mmoles, 1.5 g), triethylsilane (5.0 mmoles, 0.80 mls), CH2Cl2 (50 ml) and TFA (9.1 mmoles, 0.70 mls) yielded, after flash chromatography using 20% ethyl acetate/hexanes, 0.77 g (54%) of a white solid.

reactant | a-(2-benzo[b]-thienyl)-3,4,5-trimethoxybenzyl alcohol | 4.5 mmoles, 1.5 g | S1C2=C(C=C1C(C1=CC(=C(C(=C1)OC)OC)OC)O)C=CC=C2 | C18H18O4S
reactant | triethylsilane | 5.0 mmoles, 0.80 mls | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 9.1 mmoles, 0.70 mls | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-(3,4,5-trimethoxybenzyl)-benzo[b]thiophene | COC=1C=C(CC2=CC3=C(S2)C=CC=C3)C=C(C1OC)OC | C18H18O3S
